US08609675B2
Step D—Synthesis of 1-methyl-4-((3-methyl-6-(6-phenylpyridin-3-yl)-1H-dipyrazolo[1,5-a:4′,3′-e]pyrimidin-4-yl)methyl)cyclohexanecarboxylic acid (Compound 3)
To a 20 mL scintillation vial was charged ethyl 1-methyl-4-((3-methyl-6-(6-phenylpyridin-3-yl)-1H-dipyrazolo[1,5-a:4′,3′-e]pyrimidin-4-yl)methyl)cyclohexanecarboxylate (Int-6c, 0.03 mmol). To this residue was added 2:1 THF:H2O (1.5 mL) and LiOH.H2O (20 mg). The resulting solution was stirred at 80° C. for 4 days. After 4 days, the reaction was brought to pH 3 with 1N HCl(aq). The reaction was reduced in vacuo and the residue was purified via reverse-phase preparatory HPLC to 1-methyl-4-((3-methyl-6-(6-phenylpyridin-3-yl)-1H-dipyrazolo[1,5-a:4′,3′-e]pyrimidin-4-yl)methyl)cyclohexanecarboxylic acid (3). (M+H=481.27, retention time=4.01 min).

reactant | ethyl 1-methyl-4-((3-methyl-6-(6-phenylpyridin-3-yl)-1H-dipyrazolo[1,5-a:4′,3′-e]pyrimidin-4-yl)methyl)cyclohexanecarboxylate | 0.03 mmol | CC1(CCC(CC1)CC1=NC=2N(C3=C1C(=NN3)C)N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C(=O)OCC | C30H32N6O2
reactant | THF | C1CCOC1 | C4H8O
reactant | LiOH.H2O | 20 mg | O[Li].O
reactant | HCl | 1N | Cl | ClH
solvent | H2O | 1.5 mL | O | H2O
product | 1-methyl-4-((3-methyl-6-(6-phenylpyridin-3-yl)-1H-dipyrazolo[1,5-a:4′,3′-e]pyrimidin-4-yl)methyl)cyclohexanecarboxylic acid | CC1(CCC(CC1)CC1=NC=2N(C3=C1C(=NN3)C)N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C(=O)O | C28H28N6O2
